2146-02-15 07:45:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   55yM with a history of AML, s/p allogenic BMT in [**6-22**] complicated by
   severe GVHD to skin and liver, on steroids, presenting from oncology
   clinic with hypoxia, fever, and hypotension following 2 days of
   productive cough and lethargy.
   24 Hour Events:
   No acute events overnight.
   For hypoxia, pt maintained on non rebreather mask overnight, with O2
   sat between 93-98%.  On attempt to lower FiO2 this morning, O2 sat
   dropped to 85% on RA, 88% on 6L NC, and 88% on 35% FiO2 via Venti mask.
   Pt was switched back to the non rebreather, then transitioned to a cool
   nebulizer, with O2 sat maintained at approx 95%.
   For hypotension, pt received a 1L NS bolus last night and was started
   on maintenance fluids, given no PO intake. He remained afebrile and
   hemodynamically stable overnight.
   Cardiac enzyme sets 2 and 3 returned negative. Repeat EKG @ 8pm
   demonstrated NSR @ 86bpm; 1mm ST-segment depression in V4=V5,
   persistent T-wave inversions in V2-V6.
   This morning, pt reports feeling much better, though he woke up
   drenched in sweat. He reports increased productive cough but denies
   dyspnea, chest pain (including pleurisy), nausea, abd pain, dizziness,
   palpitations, headache. His chronic LUE pain is well controlled. He
   expressed an interest in breakfast.
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendCefepime
   [**Name2 (NI) **];
   Cipro (Oral) (Ciprofloxacin Hcl)
   [**Name2 (NI) **];
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-14**] 09:30 PM
   Acyclovir - [**2146-2-14**] 09:30 PM
   Doxycycline - [**2146-2-14**] 10:30 PM
   Aztreonam - [**2146-2-14**] 11:52 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-14**] 08:15 PM
   Pantoprazole (Protonix) - [**2146-2-14**] 09:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-15**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 70 (70 - 95) bpm
   BP: 120/82(90) {97/69(75) - 152/102(104)} mmHg
   RR: 13 (11 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,619 mL
                                                                  1,530 mL
   PO:
             TF:
   IVF:
                                                                    619 mL
                                                                  1,530 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                  1,050 mL
   Urine:
                                                                    800 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,269 mL
                                                                    480 mL
   Respiratory support
   O2 Delivery Device: Cool nebulizer
   SpO2: 95%
   ABG: 7.43/37/80.[**Numeric Identifier 248**]/22/0
   PaO2 / FiO2: 80
   Physical Examination
   General: Less somnolent than last night, easily arousable and
   appropriately interactive; oriented x3; no acute distress; able to
   speak in full sentences without increased respiratory effort
   HEENT: Sclera anicteric, conjunctive non-injected, MMM, oropharynx
   clear w/o exudates or lesions, no bulging tonsils
   Neck: Thick, supple, JVP not elevated
   Lungs: Good air movement on L; poor air movement on R; scattered ronchi
   and crackles at both lung bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Soft, obesely distended, no rebound tenderness or guarding,
   no organomegaly.
   GU: No foley.
   Ext: Warm, well perfused; DPs present (1+ on L, 2+ on R), no clubbing,
   cyanosis or edema; bruising on arms and legs
   Neuro: No focal deficits. No pronator drift; finger tapping intact
   bilaterally; 5/5 strength in lower extremities.
   Labs / Radiology
   117 K/uL
   14.8 g/dL
   175 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.5 mEq/L
   13 mg/dL
   105 mEq/L
   138 mEq/L
   42.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2146-2-14**]  05:10 PM
                             [**2146-2-14**]  08:26 PM
                             [**2146-2-14**]  09:05 PM
                             [**2146-2-15**]  04:43 AM
   WBC
   5.4
   6.5
   Hct
   42.8
   42.7
   Plt
   113
   117
   Cr
   1.1
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   25
   Glucose
   189
   175
   Other labs: PT / PTT / INR:11.7/31.7/1.0, CK / CKMB /
   Troponin-T:55/2/<0.01, ALT / AST:38/31, Alk Phos / T Bili:101/0.2,
   Amylase / Lipase:/41, Differential-Neuts:89.6 %, Lymph:6.9 %, Mono:3.1
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:217 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   CXR [**2146-2-15**]: Area of opacification at R medial lung base.
   Assessment and Plan
   55yM with a history of AML, s/p allogenic BMT in [**6-22**] complicated by
   severe GVHD to skin and liver, on steroids, presenting from oncology
   clinic with profound hypoxia, fever, and productive cough, likely
   secondary to community-acquired pneumonia.
   #) Hypoxic Respiratory Failure [**1-18**] CAP: Several possible explanations,
   but infectious process is most likely, given fever and productive cough
   in a susceptible host, with CXR demonstrating areas of opacification at
   lung bases bilaterally (R>L), and CT demonstrating scattered GGOs and
   areas of nodularity in both lung fields. Atypical vs typical etiology.
   Legionella ruled out by negative urinary antigen. PCP unlikely, given
   [**Name9 (PRE) 11734**] LDH and current ppx regimen. Infection superimposed on
   underlying lung disease (possibly GVHD to lung, less likely pulmonary
   hypertension [**1-18**] untreated OSA or emphysematous changes) might account
   for why the patient's hypoxia appears out of proportion to the findings
   on CT. At baseline, pt
s DLCO is 50% and RA O2 sat is low-to-mid 90s.
   Possible, though less likely, that the patient has an intracardiac
   shunt (e.g. PFO) contributing to hypoxia in the setting of increased
   R-sided pressures from infection-driven hypoxia-induced
   vasoconstriction, which may be reflected in the RV strain pattern on
   EKG. No evidence of hypercarbic respiratory failure on ABG. PE ruled
   out by the CT angiogram. No prior history or exam/imaging findings to
   support diagnosis of CHF or COPD exacerbation.
   -Attempt to lower FiO2
   -Consider a trial of mask ventilation if O2 Sat < 90% on non rebreather
   -Vancomycin 1g IV Q12H (Day 1 is [**2-14**]) for Gram positive coverage
   -Aztreonam 1000 mg IV Q12H (Day 1 is [**2-14**]) for Gram negative coverage,
   given allergy to cephalosporins and quinolones
   -Doxycycline 100mg IV Q12H (Day 1 is [**2-14**]) for mycoplasma coverage
   -f/u blood cultures, CMV viral load
   -f/u Viral DFA panel
   -f/u Sputum culture and gram stain, including fungal cx and PCP stain
   [**Name9 (PRE) **] off on  Echo with bubble study to r/o intracardiac shunt/PFO,
   given infectious etiology most likely explanation for hypoxia
   -TMP-SMX 1 Tab DS Daily for PCP [**Name9 (PRE) **]
   [**Name9 (PRE) 11735**] [**Name Initial (PRE) **]>100.4 --> repeat blood and urine cx
   -PA/Lateral CXR tomorrow
   #) Hypotension: [**1-18**] dehydration, fluid responsive, now resolved.
   Initially concerning for sepsis vs adrenal insufficiency.
   -D/C stress-dose steroids
   -Resume home steroid regimen of 10mg prednisone PO daily
   -Advance diet
   -D/C maintenance fluids
   -Infectious work-up, as above
   #) EKG Changes: ST-segment depressions and T-wave inversions initially
   concerning for demand ischemia in the setting of infection, but the
   ST-segment changes are an exaggeration of a baseline abnormality, and
   the patient ruled out for MI.
   -Repeat EKG today
   #) Thrombocytopenia: Plt count 140s on admission, then 113 last night,
   down from 220s in [**12-26**]. Plt count stable in 110s this morning. Most
   likely explanation is medication side effect. Sulfa drugs, vancomycin,
   and pantoprazole can cause thrombocytopenia, though the time course is
   not right for any of these medications. Another possible explanation is
   HIT Type 1, although the patient's plt count was down from baseline
   prior to administration of subcutaneous heparin on the floor. ITP
   always possible, though this would be a diagnosis of exclusion.
   -Trend plt count
   -Continue subcutaneous heparin for DVT ppx unless plt<100
   #) DM2: Steroid-induced. Pt has been maintaining BS in 130s with 12
   units NPH in AM. No PO intake in past three days. Despite this,
   inpatient BS are 170s-180s, most likely [**1-18**] stress-dose steroids.
   -Continue 12 units NPH QAM
   -Insulin Sliding Scale PRN
   #) BMT/GVHD: Stable. Possible that GVHD to the lung is contributing to
   the patient
s hypoxia, as discussed above, though this is not a
   diagnosis we would make in the inpatient setting.
   -Continue steroids, as above
   -TMP-SMX 1 Tab DS Daily for PCP [**Name9 (PRE) **], as above
   -Continue Acyclovir for Herpes ppx
   -Continue Folic Acid 1mg daily
   -Vitamin D 400 units PO daily
   -Repeat PFTs in outpatient setting
   #) [**Last Name (un) **]: Pre-renal picture, now resolved. Creatinine 1.5 on admission,
   up from baseline of 0.9-1.0, with return to baseline following
   hydration.
   -Trend creatinine
   #) Nausea: Pt has 3-month hx of nausea/vomiting. GI work-up was
   essentially unrevealing. Barium swallow indicated mild esophagitis. EGD
   noted small hiatal hernia; biopsies were negative. H pylori studies
   were negative. Gastric emptying studying was normal. Hospital admission
   in [**12-26**] for this CC concluded that DDX included GERD vs adrenal
   insufficiency.
   -Continue Pantoprazole 40mg PO Q12H for GERD
   -Continue Budesonide 3mg PO TID
   -Ondansetron 4 mg IV Q8H PRN for nausea
   -Start bowel regimen: Colace + Senna
   #) Headache: Resolved. Pt was somnolent last night but had normal MS
   otherwise. Concern is for meningeal infection, though pt continues to
   have no focal neuro deficits or meningeal signs on exam.
   -LP if meningeal signs or neuro deficit develops, or headache returns
   and becomes unresponsive to pain meds
   -Acetaminophen PRN for pain
   #) Neuropathic pain: Stable. Continue at-home pain med regimen.
   -Oxycodone SR PO 60mg [**Hospital1 **], 20mg Q2PM
   -Hydromorphone 2-4mg PO Q6H PRN for pain
   #) Electrolyes: Calcium of 8.1 converts to 8.8 when corrected for
   albumin of 3.5.
   -Trend Calcium
   -Replete lytes as necessary
   ICU Care
   Nutrition: Diabetic diet, as tolerated
   Glycemic Control:  See above
   Lines:
   18 Gauge - [**2146-2-14**] 06:51 PM
   22 Gauge - [**2146-2-15**] 12:00 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: on PPI, as above
   VAP:
   Comments:
   Communication:  Comments:  Patient, patient's wife [**Name (NI) 2580**] (cell
   [**Telephone/Fax (1) 11736**])
   Code status: Full code
   Disposition: Pending improvement in hypoxia, ability to maintain O2 sat
   >93% on NC O2
   ------ Protected Section ------
   Patient seen and examined. Patient
s assessment and plan discussed on
   MICU team rounds. Agree with [**First Name9 (NamePattern2) 6490**] [**Last Name (un) 11737**] note as above. Respiratory
   status has stabilized overnight and infiltrates appear to be increasing
   on CXR as well as patient has increased productive cough. Continue abx
   regimen as above and wean O2 as tolerated.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5294**] [**Last Name (NamePattern1) 8766**], MD
   on:[**2146-2-15**] 11:56 ------

2146-02-16 07:54:00 Physician Resident Progress Note
Chief Complaint: Community Acquired Pnemonia
   55yM with a history of AML, s/p allogenic BMT in [**6-22**] complicated by
   severe GVHD to skin and liver, on steroids, presenting with hypoxic
   respiratory failure secondary to parainfluenza infection.
   24 Hour Events:
   No acute events overnight. Patient remained afebrile and
   hemodynamically stable. His O2 requirement was lowered gradually to 3L
   NC with O2 sats maintained in low-to-mid 90s.
   Relevant microbiology results:
   Parainfluenza Type 1 +
   Sputum Gram Stain revealed 4+ GPCs, 3+ Gram - coccobacilli, and 2+ GNRs
   Given the possibility of bacterial superinfection, antibiotics were
   continued.
   This morning, the patient appears clinically improved. He reports
   feeling better than yesterday, with reduced cough, and no headache,
   SOB, CP, pleurisy, nausea, abd pain, dizziness. He is eating a full
   diet and ambulating to the chair in his room.
   Exam:
   General: Awake, alert, interactive, propped up in bed, oriented x3,
   speaking in full sentences without increased respiratory effort
   HEENT: MMM; oropharynx clear w/o lesions or exudates
   Lungs: Good air movement bilaterally. End-inspiratory crackles at R
   lung base. Otherwise clear. No wheezing or ronchi.
   Cardiac: RRR; nl S1, S2; no murmurs
   Abd: soft, obesely distended, non-tender to palpation
   Extr: WWP; DPs 2+ on R, 1+ on L
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2146-2-14**] 09:30 PM
   Vancomycin - [**2146-2-15**] 08:19 AM
   Doxycycline - [**2146-2-15**] 11:00 AM
   Aztreonam - [**2146-2-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-15**] 08:40 PM
   Heparin Sodium (Prophylaxis) - [**2146-2-15**] 08:40 PM
   Other medications:
   Bactrim
   Folic Acid
   Vitamin D
   Budesonide
   Insulin NPH and Humalog SS
   Ondansetron PRN
   Oxycodone
   Hydromorphone PRN
   Colace + Senna
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-16**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 68 (64 - 86) bpm
   BP: 137/88(100) {106/70(77) - 144/96(107)} mmHg
   RR: 10 (7 - 18) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  4,021 mL
                                                                    590 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,181 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    250 mL
   Urine:
                                                                  2,480 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,541 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   See above.
   Labs / Radiology
   139 K/uL
   15.1 g/dL
   113 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   18 mg/dL
   102 mEq/L
   138 mEq/L
   43.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2146-2-14**]  05:10 PM
                             [**2146-2-14**]  08:26 PM
                             [**2146-2-14**]  09:05 PM
                             [**2146-2-15**]  04:43 AM
                             [**2146-2-16**]  05:16 AM
   WBC
   5.4
   6.5
   7.9
   Hct
   42.8
   42.7
   43.9
   Plt
   113
   117
   139
   Cr
   1.1
   0.8
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   25
   Glucose
   189
   175
   113
   Other labs: PT / PTT / INR:11.3/29.8/0.9, CK / CKMB /
   Troponin-T:55/2/<0.01, ALT / AST:38/31, Alk Phos / T Bili:101/0.2,
   Amylase / Lipase:/41, Differential-Neuts:89.6 %, Lymph:6.9 %, Mono:3.1
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:217 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Fingerstick BS: 258 (afternoon [**2-15**]), 272 (dinner [**2-15**]), 131 (midnight
   [**2-16**])
   Microbiology
   Viral DFA
 positive for parainfluenza type 1
   Sputum Gram Stain:  4+ GPCs, 3+ Gram - coccobacilli, 2+ GNRs
   Sputum Cx
 speciation pending; negative for PCP; fungal cx pending
   MRSA screen
 pending
   Blood Cx
 pending
   Urine Cx
 negative
   CMV viral load
 negative
   EKG: NSR; 0.5-1mm ST-segment depressions and T-wave inversions in V2-V5
   (unchanged from yesterday)
   Assessment and Plan
Parainfluenza Infection
   Assessment and Plan
   55yM with a history of AML, s/p allogenic BMT in [**6-22**] complicated by
   severe GVHD to skin and liver, on steroids, presenting with hypoxic
   respiratory failure secondary to parainfluenza infection.
   #) Hypoxic Respiratory Failure: Significantly improved. Etiology is
   Parainfluenza Type 1 infection. Treatment is supportive care. Given the
   results of the gram stain, there is the possibility of bacterial
   superinfection, therefore continued broad-spectrum antibiotic coverage
   is warranted until speciation results are available.
   -Continue to wean O2 with goal of O2Sat>94% on RA (patient
s baseline)
   -Continue Vancomycin 1g IV Q12H (Day 1 is [**2-14**]) for Gram pos coverage
   -Continue Aztreonam 1000 mg IV Q12H (Day 1 is [**2-14**]) for Gram neg
   coverage
   -D/C doxycycline
   -f/u sputum cx speciations and sensitivities
   -f/u sputum fungal cx
   -f/u  blood cx
   -continue TMP-SMX 1 Tab DS Daily for PCP [**Name9 (PRE) **]
   [**Name9 (PRE) 11735**] [**Name Initial (PRE) **]>100.4 --> repeat blood and urine cx
   #) Abnormal EKG:  Unchanged from yesterday. ST-depressions are present
   on EKG from prior admission here in [**12-26**]. Pt has been ruled out for MI
   and is asymptomatic.
   #) Thrombocytopenia: Count dropped to 110s from baseline of 200s on
   this admission but is now back up to 139. Explanation is unclear;
   likely medication side effect, given that the patient is on multiple
   drugs (Bactrim, PPI, Vanc) that can affect the plt count.
   -Continue to trend plt count
   -Continue subcutaneous heparin for DVT ppx unless plt<100
   #) DM2: Steroid-induced. Fingerstick BS were high during the day
   yesterday, likely secondary to stress-dose steroids in the AM and
   increased PO intake throughout the day. Expect lower FS today with
   return to home steroid dose.
   -Continue 12 units NPH QAM
   -Insulin Sliding Scale PRN
   #) BMT/GVHD: Stable. Possible that pt has GVHD involvement in the lung,
   given hypoxia out of proportion to CXR and CT findings, though the
   hypoxia has improve
   -Switch to home dose steroids: Prednisone 10mg PO daily
   -TMP-SMX 1 Tab DS daily for PCP [**Name9 (PRE) **], as above
   -Continue Acyclovir for Herpes ppx
   -Continue Folic Acid 1mg daily
   -Vitamin D 400 units PO daily
   -Repeat PFTs in outpatient setting
   #) Nausea: Pt currently asymptomatic but has 3-month hx of
   nausea/vomiting attributed to GERD vs esophagitis vs adrenal
   insufficiency vs GVDH involvement in the gut.
   -Continue Pantoprazole 40mg PO Q12H for GERD
   -Continue Budesonide 3mg PO TID for gut GVHD
   -Ondansetron 4 mg IV Q8H PRN for nausea
   -Continue bowel regimen: Colace + Senna
   #) Neuropathic pain: Stable. Continue at-home pain med regimen.
   -Oxycodone SR PO 60mg [**Hospital1 **], 20mg Q2PM
   -Hydromorphone 2-4mg PO Q6H PRN for pain
   #) Hypotension: Resolved
   #) [**Last Name (un) **]: Resolved.
   #) Headache: Resolved.
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:  See above
   Lines:
   22 Gauge - [**2146-2-15**] 12:00 AM
   Prophylaxis:
   DVT: Pneumoboots, Subcutaneous heparin
   Stress ulcer: PPI, as above
   Communication:  Comments: HCP is wife [**Name (NI) 2580**] ([**Telephone/Fax (1) 11736**])
   Code status: Full code
   Disposition: Plan for call out to BMT service today
   ------ Protected Section ------
   Agree with note as stated above.
   [**First Name8 (NamePattern2) 1690**] [**Last Name (NamePattern1) 11358**] PGY-1 [**Pager number 11748**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1690**] [**Last Name (NamePattern1) 11358**], MD
   on:[**2146-2-16**] 12:47 ------

2146-02-16 11:14:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Positive for Parainfluenza on viral screen
   Patient with O2 decreased to 3 lpm
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2146-2-14**] 09:30 PM
   Azithromycin - [**2146-2-16**] 12:00 AM
   Aztreonam - [**2146-2-16**] 12:00 AM
   Vancomycin - [**2146-2-16**] 08:37 AM
   Doxycycline - [**2146-2-16**] 10:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-16**] 08:37 AM
   Heparin Sodium (Prophylaxis) - [**2146-2-16**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: No(t) Cough
   Flowsheet Data as of  [**2146-2-16**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 77 (64 - 86) bpm
   BP: 115/80(89) {106/70(77) - 144/96(107)} mmHg
   RR: 12 (7 - 18) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  4,021 mL
                                                                  1,250 mL
   PO:
                                                                    840 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  3,181 mL
                                                                    650 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    550 mL
   Urine:
                                                                  2,480 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,541 mL
                                                                    700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   15.1 g/dL
   139 K/uL
   113 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   18 mg/dL
   102 mEq/L
   138 mEq/L
   43.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2146-2-14**]  05:10 PM
                             [**2146-2-14**]  08:26 PM
                             [**2146-2-14**]  09:05 PM
                             [**2146-2-15**]  04:43 AM
                             [**2146-2-16**]  05:16 AM
   WBC
   5.4
   6.5
   7.9
   Hct
   42.8
   42.7
   43.9
   Plt
   113
   117
   139
   Cr
   1.1
   0.8
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   25
   Glucose
   189
   175
   113
   Other labs: PT / PTT / INR:11.3/29.8/0.9, CK / CKMB /
   Troponin-T:55/2/<0.01, ALT / AST:38/31, Alk Phos / T Bili:101/0.2,
   Amylase / Lipase:/41, Differential-Neuts:89.6 %, Lymph:6.9 %, Mono:3.1
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:217 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   55 yo male with h/o AML c/b GVHD to skin, lung, liver and admitted with
   pneumonia.  He has a picture suggesting initial viral infection with
   parainfluenza and likely bacterial superinfection now showing good
   trend to clinical improvement with improved respiratory status and
   normal WBC count.
   1)       PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
He has had
   substantial improvement in pneumonia with treatement.  Influenza A+B
   negative and other cultures negative as well.  No new CXR
   -Continue with current antibiotics
   -Acyclovir
   -Aztreonam/Vanco/Doxy
   -Bactrim
   2)GVHD-
   -Prednisone 10mg dose to continue
   Additional issues to be addressed as defined in the housestaff note of
   this date.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-2-15**] 12:00 AM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor today
   Total time spent: 33

2146-02-17 07:53:00 Physician Resident Progress Note
Chief Complaint: Parainfluenza Infection
   55yM with h/x of AML, s/p allogenic BMT in [**6-22**] complicated by GVHD to
   skin and lung, on steroids, presenting with hypoxic respiratory failure
   secondary to parainfluenza type 1 infection.
   24 Hour Events:
 CALLED OUT
   Afebrile. Hemodynamically stable. Able to ambulate around pod
   maintaining O2 sat >90% on RA. On 2L NC while in bed, switched to 3L NC
   overnight after O2 sat <90%. This AM: on 3L NC, with O2 sat 97%. Per
   patient, he was wheezing overnight, but not this AM. No cough, SOB, CP.
   Preliminary sputum cx
 commensal flora. Antibiotics were continued
   despite low suspicion for bacterial superinfection, given pt is s/p
   BMT.
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Doxycycline - [**2146-2-16**] 10:05 AM
   Vancomycin - [**2146-2-16**] 08:00 PM
   Aztreonam - [**2146-2-17**] 12:00 AM
   Acyclovir - [**2146-2-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-16**] 08:37 AM
   Pantoprazole (Protonix) - [**2146-2-16**] 08:00 PM
   Other medications:
   Vitamin D
   Folic Acid
   Oxycodone SR
   Budesonide
   Insulin, NPH and Humalog SS
   Hydromorphone PRN
   Ondansetron PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-17**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 73 (63 - 95) bpm
   BP: 156/94(110) {112/67(82) - 156/94(110)} mmHg
   RR: 10 (9 - 18) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,080 mL
                                                                    177 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  1,000 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    725 mL
   Urine:
                                                                  1,300 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                   -549 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   General: Sleeping but easily arousable, no acute distress, speaking in
   full sentences without increased respiratory effort
   Lungs: Good air movement bilaterally; End-inspiratory crackles at R
   lung base; no wheezes on 8am exam, but end-inspiratory wheezes present
   bilaterally on 12noon team rounds.
   Cardiac: RRR; nl S1, S2; no murmurs; distant heart sounds
   Abd: soft, NT, obesely distended
   Extr: WWP; 2+ DP on R; 1+ DP on L
   Labs / Radiology
   147 K/uL
   14.1 g/dL
   96 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.0 mEq/L
   16 mg/dL
   103 mEq/L
   141 mEq/L
   41.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2146-2-14**]  05:10 PM
                             [**2146-2-14**]  08:26 PM
                             [**2146-2-14**]  09:05 PM
                             [**2146-2-15**]  04:43 AM
                             [**2146-2-16**]  05:16 AM
                             [**2146-2-17**]  05:36 AM
   WBC
   5.4
   6.5
   7.9
   6.3
   Hct
   42.8
   42.7
   43.9
   41.9
   Plt
   113
   117
   139
   147
   Cr
   1.1
   0.8
   0.9
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   25
   Glucose
   189
   175
   113
   96
   Other labs: PT / PTT / INR:11.8/39.6/1.0, CK / CKMB /
   Troponin-T:55/2/<0.01, ALT / AST:38/31, Alk Phos / T Bili:101/0.2,
   Amylase / Lipase:/41, Differential-Neuts:89.6 %, Lymph:6.9 %, Mono:3.1
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:217 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Microbiology
   Sputum culture (preliminary)
 Heavy growth of commensal flora
   Fungal culture (preliminary)
 Yeast
   Assessment and Plan
   55yM with a history of AML, s/p allogenic BMT in [**6-22**] complicated by
   GVHD to skin and liver, on steroids, presenting with hypoxic
   respiratory failure secondary to parainfluenza infection.
   #) Hypoxic Respiratory Failure [**1-18**] parainfluenza infection: Clinically
   improved, though now with symptomatic bronchoconstriction [**1-18**]
   infection. Able to maintain O2 sat >90% on RA while ambulating but not
   while sleeping. Bacterial superinfection unlikely, given growth of
   commensal flora on sputum cx.
   -Continue to wean O2 with goal of O2Sat>94% on RA (patient
s baseline)
   -Continue ambulation around floor
   -Nebulizers PRN for wheezing
   -Per BMT: continue abx for now, BMT will make decision about d/c on
   floor
   -f/u final sputum cx and fungal cx
   -f/u  blood cx
   -continue TMP-SMX 1 Tab DS Daily for PCP [**Name9 (PRE) **]
   [**Name9 (PRE) 11735**] [**Name Initial (PRE) **]>100.4 --> repeat blood and urine cx
   #) Thrombocytopenia: Count dropped to 110s from baseline of 200s on
   this admission but is now recovering and in the 140s today. Explanation
   unclear; likely medication side effect, given that the patient is on
   multiple drugs (Bactrim, PPI, Vanc) that can affect the plt count.
   -Continue to trend plt count
   -Continue subcutaneous heparin for DVT ppx unless plt<100
   #) DM2: Steroid-induced. Fingerstick BS were 300 at 12noon and 6pm
   yesterday, respectively. Better control overnight and this morning.
   Possible that AM NPH dose needs to be increased, though this change
   should be made in the outpatient setting.
   -Continue 12 units NPH QAM
   -Insulin Sliding Scale PRN
   #) BMT/GVHD: Stable. Possible that pt has GVHD involvement in the lung,
   given hypoxia out of proportion to CXR and CT findings on admission.
   -Continue home dose steroids: Prednisone 10mg PO daily
   -TMP-SMX 1 Tab DS daily for PCP [**Name9 (PRE) **], as above
   -Continue Acyclovir for Herpes ppx
   -Continue Folic Acid 1mg daily
   -Vitamin D 400 units PO daily
   -Repeat PFTs in outpatient setting
   #) Nausea: Pt currently asymptomatic but has 3-month hx of
   nausea/vomiting attributed to GERD vs esophagitis vs adrenal
   insufficiency vs GVDH involvement in the gut.
   -Continue Pantoprazole 40mg PO Q12H for GERD
   -Continue Budesonide 3mg PO TID for gut GVHD
   -Ondansetron 4 mg IV Q8H PRN for nausea
   -Continue bowel regimen: Colace + Senna
   #) Neuropathic pain: Stable. Continue at-home pain med regimen.
   -Oxycodone SR PO 60mg [**Hospital1 **], 20mg Q2PM
   -Hydromorphone 2-4mg PO Q6H PRN for pain
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:  See above
   Lines:
   22 Gauge - [**2146-2-15**] 12:00 AM
   Prophylaxis:
   DVT: Pneumoboots, Subcutaneous heparin
   Stress ulcer: PPI
   Comments:
   Communication:  Comments: Wife [**Name (NI) 2580**], cell d[**Telephone/Fax (1) 11736**]
   Code status: Full code
   Disposition: c/o to BMT
   ------ Protected Section ------
   Agree with data & plan as above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1690**] [**Last Name (NamePattern1) 11358**], MD
   on:[**2146-2-17**] 12:59 ------

2146-02-17 12:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Breathing comfortable
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Cefepime
   Rash;
   Cipro (Oral) (Ciprofloxacin Hcl)
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2146-2-16**] 12:00 AM
   Doxycycline - [**2146-2-16**] 10:05 AM
   Vancomycin - [**2146-2-16**] 08:00 PM
   Aztreonam - [**2146-2-17**] 12:00 AM
   Acyclovir - [**2146-2-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-16**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-2-17**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.6
   HR: 69 (63 - 95) bpm
   BP: 125/77(87) {112/67(82) - 156/94(110)} mmHg
   RR: 21 (9 - 21) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,080 mL
                                                                    621 mL
   PO:
                                                                    840 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                  1,150 mL
   Urine:
                                                                  1,300 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : diffuse, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: GVHD, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   14.1 g/dL
   147 K/uL
   96 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.0 mEq/L
   16 mg/dL
   103 mEq/L
   141 mEq/L
   41.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2146-2-14**]  05:10 PM
                             [**2146-2-14**]  08:26 PM
                             [**2146-2-14**]  09:05 PM
                             [**2146-2-15**]  04:43 AM
                             [**2146-2-16**]  05:16 AM
                             [**2146-2-17**]  05:36 AM
   WBC
   5.4
   6.5
   7.9
   6.3
   Hct
   42.8
   42.7
   43.9
   41.9
   Plt
   113
   117
   139
   147
   Cr
   1.1
   0.8
   0.9
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   25
   Glucose
   189
   175
   113
   96
   Other labs: PT / PTT / INR:11.8/39.6/1.0, CK / CKMB /
   Troponin-T:55/2/<0.01, ALT / AST:38/31, Alk Phos / T Bili:101/0.2,
   Amylase / Lipase:/41, Differential-Neuts:89.6 %, Lymph:6.9 %, Mono:3.1
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:217 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP) - Parainfluenza
   S/P BMT
   Immunosuppression
   He is slowly improving. Still with an O2 requirement. Will discuss abx
   with BMT but would be inclined to d/c.
   ICU Care
   Nutrition:
   Comments: Fukk
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2146-2-15**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes